US07074817B2
5-Bromo-1-butyl-1H-indole
The title compound was prepared from 1-bromobutane (11 mL, 101 mmol) and 5-bromoindole (20 g, 101 mmol) in substantially the same manner, as described in Step 1 of Example 25. The product was obtained as an oil. Mass spectrum (ESI, [M+H]+) m/z 252. 1HNMR (300 MHz, DMSO-d6): δ 7.71 (d, 1H, J=1.9 Hz), 7.46 (d, 1H, J=8.7 Hz), 7.42 (d, 1H, J=3.1 Hz), 7.22 (dd, 1H, J=6.7 Hz and J=2.0 Hz), 6.40 (d, 1H, J=3.1 Hz), 4.15 (t, 2H, J=7.0 Hz), 1.70 (q, 2H, J=7.0 Hz), 1.19 (h, 2H, J=7.47 Hz), and 0.85 ppm (t, 3H, J=7.47 Hz).

reactant | 1-bromobutane | 101 mmol, 11 mL | BrCCCC | C4H9Br
reactant | 5-bromoindole | 101 mmol, 20 g | BrC=1C=C2C=CNC2=CC1 | C8H6BrN
product | 5-Bromo-1-butyl-1H-indole | BrC=1C=C2C=CN(C2=CC1)CCCC | C12H14BrN
